US06562828B1
4-(2-Amidino-1,2,3,4-tetrahydroisoquinolin-7-yloxymethyl)-1-(pyridin-4-yl)piperidine-4-carboxylic Acid Ethyl Ester Dihydrochloride
To a solution of 1-(pyridin-4-yl)-4-(1,2,3,4-tetrahydroisoquinolin-7-yloxymethyl)piperidine-4-carboxylic acid ethyl ester (8.29 g) in dimethylformamide (50 ml) were added diisopropylethylamine (4.4 ml) and 1H-pyrazole-1-carboxamidine hydrochloride (3.69 g), and the mixture was stirred at room temperature for 12 hours. The solvent was evaporated and to the obtained residue was added diethyl ether (350 ml) and the supernatant was removed. The obtained oil was dissolved in methanol (20 ml) and thereto was dropwise added diethyl ether (700 ml) with stirring. The supernatant was removed and dried under reduced pressure. Fifty (50) mg from the obtained 4-(2-amidino-1,2,3,4-tetrahydroisoquinolin-7-yloxymethyl)-1-(pyridin-4-yl)piperidine-4-carboxylic acid ethyl ester (10.0 g) was dissolved in ethanol and dil. hydrochloric acid was added. The mixture was concentrated and dried under reduced pressure to give the title compound (55 mg).

reactant | 1-(pyridin-4-yl)-4-(1,2,3,4-tetrahydroisoquinolin-7-yloxymethyl)piperidine-4-carboxylic acid ethyl ester | 8.29 g | C(C)OC(=O)C1(CCN(CC1)C1=CC=NC=C1)COC1=CC=C2CCNCC2=C1 | C23H29N3O3
reactant | diisopropylethylamine | 4.4 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1H-pyrazole-1-carboxamidine hydrochloride | 3.69 g | Cl.N1(N=CC=C1)C(=N)N
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 4-(2-Amidino-1,2,3,4-tetrahydroisoquinolin-7-yloxymethyl)-1-(pyridin-4-yl)piperidine-4-carboxylic Acid Ethyl Ester Dihydrochloride | 55 mg | Cl.Cl.C(C)OC(=O)C1(CCN(CC1)C1=CC=NC=C1)COC1=CC=C2CCN(CC2=C1)C(N)=N | InChI=1S/C24H31N5O3.2ClH/c1-2-31-22(30)24(8-13-28(14-9-24)20-5-10-27-11-6-20)17-32-21-4-3-18-7-12-29(23(25)26)16-19(18)15-21;;/h3-6,10-11,15H,2,7-9,12-14,16-17H2,1H3,(H3,25,26);2*1H
